US07816397B2
Methyl 4-[2-(4-aminophenoxy)ethoxy]benzoate
68.4 g (0.22 M) of methyl 4-[2-(4-nitrophenoxy)ethoxy]benzoate and 1.3 g of palladium-on-charcoal are added to a mixture of 800 ml of methanol and 200 ml of tetrahydrofuran in a 2000 ml reactor, and the mixture is then maintained under ambient pressure of hydrogen at 60° C. with vigorous stirring for 6 hours.

reactant | methyl 4-[2-(4-nitrophenoxy)ethoxy]benzoate | 0.22 M, 68.4 g | [N+](=O)([O-])C1=CC=C(OCCOC2=CC=C(C(=O)OC)C=C2)C=C1 | C16H15NO6
reactant | methanol | 800 ml | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | 1.3 g | [Pd] | Pd
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | Methyl 4-[2-(4-aminophenoxy)ethoxy]benzoate | NC1=CC=C(OCCOC2=CC=C(C(=O)OC)C=C2)C=C1 | C16H17NO4
